Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
cholestyramine / ezetimibe / felodipine / phenobarbital / 
atorvastatin
 
Attending: ___.
 
Chief Complaint:
BRBPR
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ YO M, hx of HTN, Paroxysmal atrial fibrillation on Coumadin,
VT, Brugada Syndrome s/p secondary prevention ICD, CAD, HLD, who
presented to ___ with bright red bleeding per rectum. 

Patient has been having ongoing pain from his L3-L4 fracture, on
fentanyl patch started approx. 2 weeks ago. Has had very bad
constipation, didn't have BM for 2 days, gave himself a warm
water enema, had normal BM yesterday. At 1 AM had bright red
blood per rectum, came into the ER at 10 AM. At the time, had
some lightheadedness, dizziness, nausea but no vomiting. No
abdominal pain. He denies any history of gastrointestinal
bleeding. 

Of note, he had a colonoscopy ___ years ago, notable for
diverticulosis, no polyps or hemorrhoids. 

His ED course was notable for warfarin reversal. He remained
hemodynamically stable and was admitted to medicine. 

Patient was discussed with geriatrics fellow, who agreed with
admission to geriatrics.

 
Past Medical History:
#Paroxysmal atrial fibrillation
#Ventricular Tachycardia
#Brugada Syndrome s/p secondary prevention ICD (previously
followed at ___, Dr. ___, leads originally placed in
___
#CAD - unclear history / anatomy, per pt. no history of MI
#Hyperlipidemia
#Statin Intolerance
#Hypertension
 
Social History:
___
Family History:
Mother deceased at ___ years with
hx. of HTN and stroke.  Father deceased at ___ years with history
of heart disease and stroke.  Brother ___ years with hx. of COPD.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
VITAL SIGNS:  
98.4 PO 185 / 75 63 18 98 Ra  
GENERAL: elderly male, NAD 
HEENT: MMM
NECK:  supple
CARDIAC:  faint heart sounds, RRR, no m/r/g
LUNGS:  CTAB
ABDOMEN:  soft, nontender, nondistended
EXTREMITIES:  RLE slightly larger than LLE, no tenderness to
palpation. WWP
NEUROLOGIC:  A&Ox3, moving all extremities
SKIN:  no rashes noted

DISCHARGE PHYSICAL EXAM
___ 0744 Temp: 97.4 PO BP: 138/69 HR: 55 RR: 20 O2 sat: 96%
O2 delivery: Ra  
GENERAL: elderly male, NAD 
HEENT: MMM
NECK:  supple
CARDIAC:  faint heart sounds, RRR, no m/r/g
LUNGS:  CTAB
ABDOMEN:  soft, nontender, nondistended
EXTREMITIES:  RLE slightly larger than LLE, no tenderness to
palpation. WWP
NEUROLOGIC:  A&Ox3, moving all extremities
SKIN:  no rashes noted

 
Pertinent Results:
ADMISSION LABS:
___ 11:53AM BLOOD WBC-11.4* RBC-3.94* Hgb-12.3* Hct-35.8* 
MCV-91 MCH-31.2 MCHC-34.4 RDW-15.1 RDWSD-50.2* Plt ___
___ 11:53AM BLOOD Neuts-79.7* Lymphs-14.1* Monos-5.5 
Eos-0.1* Baso-0.2 Im ___ AbsNeut-9.11* AbsLymp-1.61 
AbsMono-0.63 AbsEos-0.01* AbsBaso-0.02
___ 11:53AM BLOOD ___ PTT-32.6 ___
___ 11:53AM BLOOD Glucose-94 UreaN-25* Creat-0.9 Na-142 
K-3.8 Cl-108 HCO3-21* AnGap-13
___ 11:53AM BLOOD Calcium-9.2 Phos-1.4* Mg-2.1

DISCHARGE LABS:
___ 07:00AM BLOOD WBC-10.1* RBC-3.54* Hgb-11.2* Hct-33.5* 
MCV-95 MCH-31.6 MCHC-33.4 RDW-15.6* RDWSD-53.9* Plt ___
___ 07:00AM BLOOD Glucose-73 UreaN-22* Creat-0.9 Na-144 
K-3.9 Cl-109* HCO3-23 AnGap-12
___ 07:00AM BLOOD Calcium-8.7 Phos-3.2 Mg-2.2

MICRO:
NONE

IMAGING:
___ Imaging CTA ABD/PEL W&W/O C W/R 
1. No active extravasation of contrast to suggest current GI 
bleed.  
Circumferential wall thickening of the distal descending colon 
and sigmoid 
compatible with colitis.  This may be due to ischemia, infection 
or 
inflammation.  Patent central arterial and venous vasculature. 
2. Compression deformities at L4 and L5 with bilateral L4 
pedicle fractures 
and retropulsion of the superior aspect of the L4 vertebral body 
into the 
canal.  There is some callus formation suggesting that this is 
not entirely 
acute however the retroperitoneal fat demonstrates mild 
stranding.  Clinical 
correlation regarding acuity suggested. 
3. Bilateral adrenal nodules, potentially adenomas though 
incompletely 
characterized on this exam. 
4. Moderate to large hiatal hernia containing majority of the 
stomach and 
portion of the pancreas. 

 
Brief Hospital Course:
Mr. ___ is a ___ M with PMH HTN, pAF on Coumadin, VT/Brugada 
s/p ICD, diverticulosis, L3/L4 fx on fentanyl patch who presents 
with bright red blood per rectum, concerning for diverticular 
bleed iso Coumadin, s/p vitamin K reversal, admitted to 
medicine. He remained hemodynamically stable with no more 
episodes of bright red blood per rectum while hospitalized. He 
was discharged home with close PCP ___. 

# Gastrointestinal Bleed:
Concerning for diverticular bleed given colonoscopy ___ years ago. 
Likely triggered in setting of severe constipation secondary to 
fentanyl patch, poor compliance with laxatives, while 
therapeutic on Coumadin. His subcutaneous heparin was held and 
he received vitamin K as well as blood. He remained 
hemodynamically stable. 

# Constipation.
Constipation was likely in the setting of recent fentanyl patch 
initiation two weeks ago. On senna at home but per family, 
poorly compliant. He was given docusate, senna, and miralax. He 
should continue senna and miralax daily so that he has one soft 
bowel movement per day. 

# Paroxysmal Atrial Fibrillation
On Coumadin at home, INR therapeutic on admission. He recieved 
PO vitamin K in the ER given his rectal bleeding. CHADSVASC ___. 
We continued his amiodarone 100 mg QD and his warfarin was 
restarted on discharge. 

# Low Back Pain
# L3, L4 Compression Fractures/Retropulsion
Seen on CT abd on admission, as well as CT L spine earlier this 
month. Followed by Dr. ___ NSGY, recently seen 3 
weeks ago, opted for LSO brace with f/u MRI in 2 months given 
would be high risk surgery. He continued his fentanyl patch q72h 
12.5 mcg

# Hypertension:
The patient was continued on amlodipine 5 mg QD as well as 
lisinopril 40 mg QD (fosinopril non-formulary).

# VT/Brugada Syndrome, s/p ICD
Patient continued on amiodarone as above.

# Coronary Artery Disease
# Hyperlipidemia
- per chart review, could not tolerate statins

Transitional Issues:
========================
[] Bilateral adrenal nodules, potentially adenomas though 
incompletely characterized on this exam.
[] Follow up with neurosurgery in 2 months with MRI 
[] warfarin restarted on discharge at home dose. Please monitor 
INR closely. 
[] please check CBC in 1 week to ensure hemoglobin not 
downtrending 

# CODE: full (presumed) 
# CONTACT: ___ (son) ___ ___ (Son) ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Fentanyl Patch 12 mcg/h TD Q72H 
2. amLODIPine 5 mg PO DAILY 
3. Amiodarone 100 mg PO DAILY 
4. senna 8.6 mg oral DAILY 
5. fosinopril 40 mg oral DAILY 
6. Warfarin 2.5 mg PO 4X/WEEK (___) 
7. Warfarin 1.25 mg PO 3X/WEEK (___) 
8. Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild 

 
Discharge Medications:
1.  Polyethylene Glycol 17 g PO DAILY 
RX *polyethylene glycol 3350 [Miralax] 17 gram 17 g by mouth 
daily Disp #*30 Packet Refills:*0 
2.  Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild  
3.  Amiodarone 100 mg PO DAILY  
4.  amLODIPine 5 mg PO DAILY  
5.  Fentanyl Patch 12 mcg/h TD Q72H  
6.  fosinopril 40 mg oral DAILY  
7.  senna 8.6 mg oral DAILY 
RX *sennosides [senna] 8.6 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*0 
8.  Warfarin 2.5 mg PO 4X/WEEK (___)  
9.  Warfarin 1.25 mg PO 3X/WEEK (___)  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis:
Gastrointestinal Bleed
Constipation

Secondary Diagnosis:
Paroxysmal Atrial Fibrillation
L3, L4 Compression Fractures/Retropulsion
Hypertension 
Ventricular tachycardia/Brugada Syndrome with Implantable 
Cardioverter Defibrillator 
Coronary Artery Disease

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

WHY WAS I ADMITTED?
====================
You were admitted because you had bleeding from your rectum. 

WHAT WAS DONE WHILE I WAS HERE?
================================
You had a CT scan of your abdomen that did not show any active 
bleeding. We monitored your blood counts and gave you 
medications to help you have a bowel movement.

WHAT SHOULD I DO NOW?
=======================
- You should take Senna and Miralax daily to have one soft bowel 
movement daily. You can increase the senna and miralax to two 
times per day if needed to have a soft bowel movement. 
- Please continue taking your warfarin at the same dose and 
schedule that you were before you came to the hospital. You 
should get your INR checked on ___. 
- You should take your medications as instructed.
- You should go to your doctors ___ as below.

We wish you the best!
-Your ___ Care Team 
 
Followup Instructions:
___